US05169855
Following the procedure for Example 139, 4-fluorobenzylbromide and 1-benzyl-2-(hydroxymethyl)-piperidine were reacted to give 1-benzyl-2-(4'-fluorophenoxymethyl) piperidine.

reactant | 4-fluorobenzylbromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 1-benzyl-2-(hydroxymethyl)-piperidine | C(C1=CC=CC=C1)N1C(CCCC1)CO | C13H19NO
product | 1-benzyl-2-(4'-fluorophenoxymethyl) piperidine | C(C1=CC=CC=C1)N1C(CCCC1)COC1=CC=C(C=C1)F | C19H22FNO
